US07618988B2
Analoguosly to example 2.1, (2R/S)-2-({[5-(4-fluorophenyl)-pyridin-3ylmethyl]-amino}-methyl)-8-methoxychroman is treated with hydrobromic acid to obtain (2R/S)-2-({[5-(4-fluorophenyl)-pyridin-3ylmethyl]-amino}-methyl)-chroman-8-ol hydrobromide.

reactant | (2R/S)-2-({[5-(4-fluorophenyl)-pyridin-3ylmethyl]-amino}-methyl)-8-methoxychroman | FC1=CC=C(C=C1)C=1C=C(C=NC1)CNCC1OC2=C(C=CC=C2CC1)OC | C23H23FN2O2
reactant | hydrobromic acid | Br | BrH
product | (2R/S)-2-({[5-(4-fluorophenyl)-pyridin-3ylmethyl]-amino}-methyl)-chroman-8-ol hydrobromide | Br.FC1=CC=C(C=C1)C=1C=C(C=NC1)CNCC1OC2=C(C=CC=C2CC1)O | InChI=1S/C22H21FN2O2.BrH/c23-19-7-4-16(5-8-19)18-10-15(11-24-13-18)12-25-14-20-9-6-17-2-1-3-21(26)22(17)27-20;/h1-5,7-8,10-11,13,20,25-26H,6,9,12,14H2;1H
